US09024027B2
To a solution of 3-nitrophthalimide (1 g, 5.20 mmol) in dry DMF (35 ml), cooled in an ice bath, NaH (60% w/w dispersion in mineral oil, 0.250 g, 6.25 mmol) was added, followed after 15 minutes by t-butyl bromoacetate (0.845 ml, 5.73 mmol). After stirring for 1 hour at room temperature, the mixture was poured into water and the resulting precipitate was washed with water and with a little amount of Et2O; after drying, tert-butyl 2-(4-nitro-1,3-dioxoisoindolin-2-yl)acetate was obtained (1.44 g, 4.70 mmol, 90% yield, MS/ESI+ 328.9 [MNa]+).

reactant | 3-nitrophthalimide | 5.20 mmol, 1 g | [N+](=O)([O-])C1=C2C(C(=O)NC2=O)=CC=C1 | C8H4N2O4
reactant | NaH | 6.25 mmol, 0.250 g | [H-].[Na+]
reactant | t-butyl bromoacetate | 5.73 mmol, 0.845 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(4-nitro-1,3-dioxoisoindolin-2-yl)acetate | 90% yield | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC(C)(C)C)=O | C14H14N2O6
